US08957069B2
1-(2,2,4,6,7-Pentamethyl-2,3-dihydro-1-benzofuran-5-yl)-4-(1,3-thiazol-2-yl)piperazine
By using 5-bromo-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran (404 mg, 1.50 mmol) synthesized in Reference example 4 and 1-(1,3-thiazol-2-yl)piperazine (508 mg, 3.00 mmol), the reaction was carried out in the same manner as Example 21 to synthesis the title compound 196 mg (yield 36%). Melting point was 150 to 151° C. (hexane-ethyl acetate).

reactant | 5-bromo-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran | 1.50 mmol, 404 mg | BrC=1C(=C(C2=C(CC(O2)(C)C)C1C)C)C | C13H17BrO
reactant | 1-(1,3-thiazol-2-yl)piperazine | 3.00 mmol, 508 mg | S1C(=NC=C1)N1CCNCC1 | C7H11N3S
product | 1-(2,2,4,6,7-Pentamethyl-2,3-dihydro-1-benzofuran-5-yl)-4-(1,3-thiazol-2-yl)piperazine | 196 mg, yield 36% | CC1(OC2=C(C1)C(=C(C(=C2C)C)N2CCN(CC2)C=2SC=CN2)C)C | C20H27N3OS
